US09102692B2
A mixture of 5-bromo-1-(toluene-4-sulfonyl)-1H-indole-2-carboxylic acid ethyl ester (948.4 mg, 2.24 mmol), Tris(dibenzylideneacetone)dipalladium (0) (0.112 mmol, 103 mg), 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (Xantphos) (0.225 mmol, 130 mg), lithium formate monohydrate (5.6 mmol, 394 mg), lithium chloride (286 mg, 6.75 mmol), and anhydrous N,N-dimethylformamide (DMF) (5.9 ml) was evacuated, and backfilled with argon. Then, N,N-diisopropylethyl amine (4.5 mmol, 0.78 ml) and acetic anhydride (4.5 mmol, 0.43 ml) were added to the mixture, and deaeration and argon replacement was performed again. The reaction container was placed in a reaction device preheated at 80° C. and the reaction mixture was stirred for 20 hours. After cooling to room temperature, the reaction mixture was diluted with ethyl acetate and an aqueous solution of 1 M hydrochloric acid, and filtered through Celite. The resulting filtrate was washed with 1 M hydrochloric acid, water, and a saturated aqueous solution of sodium chloride, and then dried over anhydrous sodium sulfate. The desiccant was removed by filtration. The filtrate was concentrated under reduced pressure, and the resulting residue was purified by silica gel column chromatography (hexane/ethyl acetate=5/1 to 1/3, and finally ethyl acetate/methanol=15/1) to give 1-(toluene-4-sulfonyl)-1H-indole-2,5-dicarboxylic acid 2-ethyl ester as a yellow amorphous material (930 mg).

reactant | 5-bromo-1-(toluene-4-sulfonyl)-1H-indole-2-carboxylic acid ethyl ester | 2.24 mmol, 948.4 mg | C(C)OC(=O)C=1N(C2=CC=C(C=C2C1)Br)S(=O)(=O)C1=CC=C(C=C1)C | C18H16BrNO4S
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 0.225 mmol, 130 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
reactant | lithium formate monohydrate | 5.6 mmol, 394 mg | O.C(=O)[O-].[Li+]
reactant | lithium chloride | 6.75 mmol, 286 mg | [Cl-].[Li+]
reactant | N,N-diisopropylethyl amine | 4.5 mmol, 0.78 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | acetic anhydride | 4.5 mmol, 0.43 ml | C(C)(=O)OC(C)=O | C4H6O3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | Tris(dibenzylideneacetone)dipalladium | 0.112 mmol, 103 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | N,N-dimethylformamide | 5.9 ml | CN(C=O)C | C3H7NO
product | 1-(toluene-4-sulfonyl)-1H-indole-2,5-dicarboxylic acid 2-ethyl ester | CCOC(=O)C=1N(C2=CC=C(C=C2C1)C(=O)O)S(=O)(=O)C1=CC=C(C=C1)C | C19H17NO6S
